US05703089
A mixture of 1.23 g (5 mmol) of 1,2-dihydro-3H-dibenz[de,h]isoquinoline-1,3-dione in 100 ml of ethanol is treated with 280 mg (5 mmol) of potassium hydroxide in 50 ml of ethanol. After refluxing for 3 hours, 0.65 g (2.5 mmol) of N,N'-bis(2-bromoethyl)-1,3-propanediamine in 50 ml of ethanol are added and the whole is refluxed for 24 hours. The reaction mixture is concentrated in vacuo. The residue is treated with water (100 ml) and extracted with dichloromethane. The organic layers are combined, dried with magnesium sulfate, filtered, and concentrated in vacuo. The residue is chromatographed, eluting with dichloromethane, methanol, acetic acid (80:15:5). The appropriate fractions are combined, concentrated in vacuo and crystallized from toluene to give 0.31 g (20%) of N,N'-bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-1,3-propanediamine. M.p. 191° C.

reactant | 1,2-dihydro-3H-dibenz[de,h]isoquinoline-1,3-dione | 5 mmol, 1.23 g | C1(NC(C2=C3C(C=C4C(=C13)C=CC=C4)=CC=C2)=O)=O | C16H9NO2
reactant | potassium hydroxide | 5 mmol, 280 mg | [OH-].[K+]
reactant | N,N'-bis(2-bromoethyl)-1,3-propanediamine | 2.5 mmol, 0.65 g | BrCCNCCCNCCBr | C7H16Br2N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N,N'-bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-1,3-propanediamine | 0.31 g, 20% | O=C1N(C(C2=C3C(C=C4C(=C13)C=CC=C4)=CC=C2)=O)CCNCCCNCCN2C(C4=C1C(=CC=3C4=C(C2=O)C=CC3)C=CC=C1)=O | C39H32N4O4
